US09382228B2
A −78° C. mixture of 4-(trifluoromethoxy)butanamide (175 mg, 1.023 mmol) in THF (5 mL) was treated drop wise with LiHMDS (1.0M in THF, 1.33 mL, 1.33 mmol), stirred for 0.5 h, then treated drop wise with a solution of isopropenyl chloroformate (0.129 mL, 1.176 mmol) in THF (1 mL). The mixture was allowed to warm to RT, treated with satd. NaHCO3 and extracted with EtOAc (3×). The combined organics were dried over Na2SO4 and concentrated to afford prop-1-en-2-yl (4-(trifluoromethoxy)butanoyl)carbamate (100% yield assumed).

reactant | 4-(trifluoromethoxy)butanamide | 1.023 mmol, 175 mg | FC(OCCCC(=O)N)(F)F | C5H8F3NO2
reactant | LiHMDS | 1.33 mmol, 1.0M, 1.33 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | isopropenyl chloroformate | 1.176 mmol, 0.129 mL | ClC(=O)OC(=C)C | C4H5ClO2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | prop-1-en-2-yl (4-(trifluoromethoxy)butanoyl)carbamate | 100% yield | FC(OCCCC(=O)NC(OC(=C)C)=O)(F)F | C9H12F3NO4
